US07700784B2
To 2-(tetrahydro-pyran-2-yl)-5-[4′-(tetrahydro-pyran-2-yloxymethyl)-biphenyl-2-yl]-2H-tetrazole (3.36 g; 8.00 mmol) are added 94% ethanol (12 mL) and a 2 M aqueous solution of sulfuric acid (1.0 mL; 2.0 mmol). The resulting mixture is heated to 45° C. for 3.5 hours. Water (16 mL) is slowly added and the mixture is allowed to cool down to room temperature. The pH of the reaction mixture is adjusted to pH 2 to 3 by adding a 2M aqueous sodium hydroxide solution (0.6 mL). The mixture is concentrated under reduced pressure, diluted with isopropyl acetate (15 mL) and washed three times with water (3 mL). The organic extract is concentrated under reduced pressure to a volume of about 4 mL and tert-butyl methyl ether (8 mL in total) is slowly added. The mixture is stirred overnight, diluted with a small amount of isopropyl acetate and further stirred for 4.5 hours. The suspended, white solid is filtered, washed with a small amount of isopropyl acetate and dried under reduced pressure to afford [2′-(1H-tetrazol-5-yl)-biphenyl-4-yl]-methanol. The filtrate is concentrated under reduced pressure, and tert-butyl methyl ether (3 mL) and heptane (0.5 mL) are slowly added. The mixture is stirred at room temperature overnight and at 0 to 5° C. for 1 hour. The suspended, white solid is filtered, washed with a small amount of isopropyl acetate and dried under reduced pressure to afford a second crop of [2′-(1H-tetrazol-5-yl)-biphenyl4-yl]-methanol.

reactant | 2-(tetrahydro-pyran-2-yl)-5-[4′-(tetrahydro-pyran-2-yloxymethyl)-biphenyl-2-yl]-2H-tetrazole | 8.00 mmol, 3.36 g | O1C(CCCC1)N1N=C(N=N1)C1=C(C=CC=C1)C1=CC=C(C=C1)COC1OCCCC1 | C24H28N4O3
reactant | ethanol | 12 mL | C(C)O | C2H6O
reactant | sulfuric acid | 2.0 mmol, 1.0 mL | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide | 2M, 0.6 mL | [OH-].[Na+]
solvent | Water | 16 mL | O | H2O
product | [2′-(1H-tetrazol-5-yl)-biphenyl-4-yl]-methanol | N1N=NN=C1C1=C(C=CC=C1)C1=CC=C(C=C1)CO | C14H12N4O
